US09314468B2
Preparation of (S)-1-morpholino-2-(1-((5,6,7,8-tetrahydroquinolin-8-ylamino)methyl)-9H-pyrido[3,4-b]indol-9-yl)ethanone.
1.5 mmol of 9-(2-morpholino-2-oxoethyl)-9H-pyrido[3,4-b]indole-1-carbaldehyde, 1.5 mmol of (S)-5,6,7,8-tetrahydroquinolin-8-amine, and 3.00 mmol of sodium triacetoxyborohydride in 20 ml dichloromethane were stirred for 2 hours at room temperature, then reaction was quenched with saturated sodium bicarbonate solution. Organic layer was dried over magnesium sulfate, filtered off, and evaporated. Desired product was purified with column chromatography using dichloromethane:methanol:NH4OH (9:1:0.1) solvent system (85% yield). ESI+ MS: m/z (rel intensity) 456.2 (100, [M+H]+). 1H-NMR (400 MHz, CDCl3): δ 8.38 (d, 1H, J=4.8 Hz), 8.36 (d, 1H, J=1.6 Hz), 8.12 (d, 1H, J=7.6 Hz), 7.92 (d, 1H, J=5.6 Hz), 7.55 (dt, 1H, J=1.2, 8.0 Hz), 7.37 (d, 1H, J=7.6 Hz), 7.29 (q, 2H, J=4.8 Hz), 7.07 (q, 1H, 4.8 Hz), 6.11 (d, 1H, J=18.0 Hz), 5.74 (d, 1H, J=17.6 Hz), 4.46 (d, 1H, J=12.0 Hz), 4.33 (d, 1H, J=12.0 Hz), 4.00 (t, 1H, J=5.6 Hz), 3.82-3.76 (m, 1H), 3.73-3.60 (m, 6H), 3.55-3.50 (m, 1H), 2.78 (t, 2H, J=6.4 Hz), 2.18-2.08 (m, 1H), 1.96-1.66 (m, 4H).

reactant | 9-(2-morpholino-2-oxoethyl)-9H-pyrido[3,4-b]indole-1-carbaldehyde | 1.5 mmol | O1CCN(CC1)C(CN1C2=C(C3=CC=CC=C13)C=CN=C2C=O)=O | C18H17N3O3
reactant | (S)-5,6,7,8-tetrahydroquinolin-8-amine | 1.5 mmol | N1=CC=CC=2CCC[C@@H](C12)N | C9H12N2
reactant | sodium triacetoxyborohydride | 3.00 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-1-morpholino-2-(1-((5,6,7,8-tetrahydroquinolin-8-ylamino)methyl)-9H-pyrido[3,4-b]indol-9-yl)ethanone | 85% yield | O1CCN(CC1)C(CN1C2=C(C3=CC=CC=C13)C=CN=C2CN[C@H]2CCCC=1C=CC=NC21)=O | C27H29N5O2
